US04299829
A solution of 2-methyl-7-[2-ethoxyimino-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-ethoxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), (3.0 g) in methanol (40 ml) was cooled in an ice-water bath and thereto was added dropwise a solution of concentrated hydrochloric acid (3.8 g) in methanol (12 ml) with stirring and then stirring was continued at room temperature. After 35 minutes stirring a homogeneous solution was formed and then 2 hours later precipitates appeared and thereafter diethyl ether (300 ml) was added thereto. The precipitates were collected by filtration, washed with diethyl ether and then dried over phosphorus pentoxide under reduced pressure to give powder of 2-methyl-7-[2-ethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride (syn isomer), which can be represented as 2-methyl-7-[2-ethoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride (syn isomer), (2.6 g).

reactant | 2-methyl-7-[2-ethoxyimino-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)NC=O)=NOCC)=O)=O | C16H17N5O6S2
reactant | 2-methyl-7-[2-ethoxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | 3.0 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2NC(SC2)=NC=O)=NOCC)=O)=O | C16H17N5O6S2
reactant | hydrochloric acid | 3.8 g | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 12 ml | CO | CH4O
product | 2-methyl-7-[2-ethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride | Cl.CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOCC)=O)=O | InChI=1S/C15H17N5O5S2.ClH/c1-3-25-19-9(7-5-26-15(16)17-7)11(21)18-10-12(22)20-8(14(23)24)4-6(2)27-13(10)20;/h4-6,10,13H,3H2,1-2H3,(H2,16,17)(H,18,21)(H,23,24);1H/t6?,10?,13-;/m1./s1
